### ISSUE TITLE
`apply?` generates references to daggered assumptions

### ISSUE THREAD

**Issue by david-christiansen** [leanprover/lean4#5395]
### Description

Sometimes, the library search tactics will generate references to inaccessible assumptions and include daggers in their suggestions. Accepting the suggestion leads to a broken proof.

### Context

I've simply noticed this when working with Lean.

### Steps to Reproduce

Enter the following proof:
```lean
example (n k : Nat) : n + k = k + n := by
  induction n <;> cases k
  . simp
  . simp
  . simp
  . apply?
```

Prior to `apply?`, the proof state is:
```
case succ.succ
n✝¹ n✝ : Nat
a✝ : n✝¹ + (n✝ + 1) = n✝ + 1 + n✝¹
⊢ n✝¹ + 1 + (n✝ + 1) = n✝ + 1 + (n✝¹ + 1)
```

[Try it here](https://live.lean-lang.org/#project=lean-nightly&codez=KYDwhgtgDgNsAEAKAdvA1vAXPAcmALgJRbyoDU68AvJRapjQEYCeAUPPAJbIAmArgGN8nAPapUAHgDcAPngCwAZ2CL07eADp4iztHVadejgd1R98MFFjMA/OqA)

**Expected behavior:**

I would expect either that the suggestion included code to make the assumption accessible, or that it did not offer to insert suggestions that use inaccessible assumptions.

For instance, it could suggest:
```
rename_i n n' _
exact Nat.add_comm (n + 1) (n' + 1)
```
as the edit, or provide a message like:
```
Found suggestion
  exact Nat.add_comm (n✝ + 1) (n✝¹ + 1)
that relies on inaccessible assumptions n✝ and n✝¹. Please name these assumptions (e.g. with 'rename_i') to use the suggestion.
```
**Actual behavior:**
The suggestion generates code that does not parse: `exact Nat.add_comm (n✝ + 1) (n✝¹ + 1)`:

```lean
example (n k : Nat) : n + k = k + n := by
  induction n <;> cases k
  . simp
  . simp
  . simp
  . exact Nat.add_comm (n✝ + 1) (n✝¹ + 1)
```
The errors are:
```
lean-nightly.lean:6:25

expected token

lean-nightly.lean:6:24

unknown identifier 'n'
```

### Versions

`"4.12.0-nightly-2024-09-19"`

### Additional Information

None

### Impact

I consider this a papercut, but the library search features are so nice that polishing them seems worthwhile.

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by keithadler** [comment]
No longer reproduces on `4.35.0-nightly-2026-09-04` or stable `4.33.1`. `apply?` now suggests `(expose_names; exact Nat.add_comm (n + 1) (n_1 + 1))` — no inaccessible names.

Suggest closing.

Triage assisted by Claude; repros run and checked manually.
